US05922703
A. 1-(Diisobutylamino)-2,3-epoxypropane
A stirred solution of epichlorohydrin (21.0 g, 0.23 mole) is treated dropwise with diisobutylamine (31.14 g, 0.24 mole) over a 1 hour period followed by continuous stirring at room temperature overnight. The reaction mixture is washed with 20% K2CO3 (50 ml). The organic layer is then stirred with 40% NaOH for 1 hour and then extracted with 3×100 ml portions of ether. The etheral extracts are pooled with the organic layer and washed with H2O (100 ml). The organic layer is dried over anhydrous Na2SO4 and filtered. The filtrate is concentrated under reduced pressure to leave the crude product. The crude product is distilled at 68°/0.1 mmHg to yield 15.83 g (37.14%) pure product to oe used as an intermediate in Part B.

reactant | epichlorohydrin | 0.23 mole, 21.0 g | C(Cl)C1CO1 | C3H5ClO
reactant | diisobutylamine | 0.24 mole, 31.14 g | C(C(C)C)NCC(C)C | C8H19N
product | 1-(Diisobutylamino)-2,3-epoxypropane | 15.83 g, 37.14% | C(C(C)C)N(CC1CO1)CC(C)C | C11H23NO
